US07402595B2
6-chloro-4-(4-formylphenyl)-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 272 and using 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester and 4-formylphenylboronic acid.

reactant | 6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1OS(=O)(=O)C(F)(F)F)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C20H15ClF3NO8S2
reactant | 4-formylphenylboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 6-chloro-4-(4-formylphenyl)-2-(4-methanesulfonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C=O)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C | C26H20ClNO6S
